US07825253B2
3,4,5-Trifluoro-N-{2-[(R)-1-(2-methoxy-phenyl)-ethylamino]-quinolin-5-yl}-benzenesulfonamide
The title compound, MS: m/e=488.3 (M+H+), was prepared in accordance with the general method of example 61 from 5-nitro-2-chloroquinoline, 3,4,5-trifluorobenzenesulfonylchloride and (R)-2-methoxy-alpha-methylbenzylamine.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 3,4,5-trifluorobenzenesulfonylchloride | FC=1C=C(C=C(C1F)F)S(=O)(=O)Cl | C6H2ClF3O2S
reactant | (R)-2-methoxy-alpha-methylbenzylamine | COC1=C([C@@H](C)N)C=CC=C1 | C9H13NO
product | 3,4,5-Trifluoro-N-{2-[(R)-1-(2-methoxy-phenyl)-ethylamino]-quinolin-5-yl}-benzenesulfonamide | FC=1C=C(C=C(C1F)F)S(=O)(=O)NC1=C2C=CC(=NC2=CC=C1)N[C@H](C)C1=C(C=CC=C1)OC | C24H20F3N3O3S
